US08471026B2
Step 1: methyl 2-(1-methyl-1H-pyrrole-2-carbonyl)-1,2,3,4-tetrahydroisoquinoline-6-carboxylate
To a vial containing N-methylpyrrole-2-carboxylic acid (0.0206 g, 0.165 mmol) was added HATU (0.0627 g, 0.165 mmol) in DMF (1.00 mL) followed by DIPEA (0.157 mL, 0.9 mmol) in DMF (0.5 mL). The mixture was shaken at rt for 30 min before methyl 5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate hydrochloride (0.0343 g, 0.15 mmol) in DMF (1.00 mL) was added. The solution was then shaken at rt for 13 h. The solvent was evaporated and to the residue was added DCE (3 mL), water (1 mL), and a few drops of ammonia in MeOH (7 N). After being thoroughly mixed, the layers were separated and the aqueous layer was extracted with DCE (3 mL). The combined organic phases were then concentrated to give a solid residue.

reactant | N-methylpyrrole-2-carboxylic acid | 0.165 mmol, 0.0206 g | CN1C(=CC=C1)C(=O)O | C6H7NO2
reactant | HATU | 0.165 mmol, 0.0627 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.9 mmol, 0.157 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate hydrochloride | 0.15 mmol, 0.0343 g | Cl.N1=C(C=CC=2CNCCC12)C(=O)OC
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
product | methyl 2-(1-methyl-1H-pyrrole-2-carbonyl)-1,2,3,4-tetrahydroisoquinoline-6-carboxylate | CN1C(=CC=C1)C(=O)N1CC2=CC=C(C=C2CC1)C(=O)OC | C17H18N2O3
